### PR TITLE
feat(IR): support dialect-local getProperties

### PR DESCRIPTION
**Pull request by math-fehr**
With this change, we can now write `getProperties ctx Arith.addi` instead of `getProperties ctx (.arith .addi)`, and get a `propertiesOf (Arith.addi)` instead of a `propertiesOf (.arith .addi)`. This is quite important since the new version is definitionally equal to the property structure, while the second one will not be definitionally equal when we have a generic `OpInfo` rather than `OpCode`.

### CODE REVIEW

**Comment by math-fehr** [comment]
!radar

**Comment by ineol** [comment]
[Benchmark results](http://grosser-desktop.mammoth-dab.ts.net:8080/repos/veir/commits/7006f20ad936cc465d5c630df4097e0306bfb3a8?reference=8191e44114749cbed8900c737d9005f75e45c614) for 7006f20ad936cc465d5c630df4097e0306bfb3a8 against 8191e44114749cbed8900c737d9005f75e45c614 are in. There are significant results. @math-fehr

**Large changes (8🟥)**

- 🟥 `build/module/Veir.Analysis//instructions`: **+27.5M** (**+1.78%**)
- 🟥 `build/module/Veir.IR.Basic//instructions`: **+1.1G** (**+2.44%**)
- 🟥 `build/module/Veir.IR.GetSet//instructions`: **+4.9G** (**+1.93%**)
- 🟥 `build/module/Veir.Interpreter.EquationLemma//instructions`: **+728.0M** (**+3.97%**)
- 🟥 `build/module/Veir.Interpreter.Lemmas//instructions`: **+309.9M** (**+0.82%**)
- 🟥 `build/module/Veir.Passes.Matching.LLVM.Lemmas//instructions`: **+2.5G** (**+5.47%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.Results//instructions`: **+328.9M** (**+1.49%**)
- 🟥 `build/module/Veir.Rewriter.WfRewriter.GetSet//instructions`: **+685.8M** (**+1.38%**)

**Medium changes (7🟥)**

- 🟥 `build/module/Veir.IR.OpInfo//instructions`: **+48.7M** (**+2.54%**)
- 🟥 `build/module/Veir.Interpreter.Refinement.Monotonicity//instructions`: **+232.8M** (**+2.15%**)
- 🟥 `build/module/Veir.Passes.Matching.Basic//instructions`: **+99.5M** (**+4.17%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.DetachOp//instructions`: **+249.4M** (**+0.76%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.Operation//instructions`: **+121.5M** (**+2.08%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.Regions//instructions`: **+237.6M** (**+0.93%**)
- 🟥 `build/module/Veir.Rewriter.LinkedList.GetSet//instructions`: **+717.7M** (**+0.60%**)

**Small changes (9🟥)**

- 🟥 `build//maxrss`: **+573MiB** (**+20.50%**)
- 🟥 `build/module/Veir.Data.FP.EDyadic.Basic//instructions`: **+7.3M** (**+0.63%**)
- 🟥 `build/module/Veir.Passes.Matching.LLVM.Basic//instructions`: **+68.8M** (**+1.32%**)
- 🟥 `build/module/Veir.Printer//instructions`: **+49.3M** (**+1.63%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.CreateRegion//instructions`: **+53.2M** (**+1.83%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.DetachBlockOperands//instructions`: **+105.6M** (**+0.62%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.DetachOperands//instructions`: **+123.4M** (**+0.76%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.ReplaceUse//instructions`: **+96.0M** (**+0.50%**)
- 🟥 `build/module/Veir.Rewriter.GetSet.Value//instructions`: **+61.4M** (**+1.49%**)

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -1061,27 +1062,43 @@ theorem setAttributes!_eq_setAttributes {op : OperationPtr} (inBounds : op.InBou
     op.setAttributes! ctx newAttrs = op.setAttributes ctx newAttrs inBounds := by
   grind [setAttributes, setAttributes!]
 
+/--
+Get the properties of an operation. This function to pass the operation `opCode` explicitly.
```
Comment (tobiasgrosser) [inline Veir/IR/Basic.lean]: > This function to pass the operation `opCode` explicitly.

Grammar?

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -1061,27 +1062,43 @@ theorem setAttributes!_eq_setAttributes {op : OperationPtr} (inBounds : op.InBou
...
     (inBounds : op.InBounds ctx := by grind)
-    (hprop : op.getOpType! ctx = opCode := by grind) : HasOpInfo.propertiesOf opCode :=
+    (hprop : op.getOpType! ctx = opCode := by grind) : HasDialectOpInfo.propertiesOf opCode :=
   have h : (op.get ctx inBounds).opType = opCode := by grind [getOpType!]
-  h ▸ (op.get ctx (by grind)).properties
+  let globalProperties := h ▸ (op.get ctx (by grind)).properties
+  HasDialect.toDialectProperties opCode globalProperties
+
+/--
+Get the properties of an operation. This function to pass the operation `opCode` explicitly.
```
Comment (tobiasgrosser) [inline Veir/IR/Basic.lean]: >  This function to pass the operation `opCode` explicitly.

Grammar?

**Review by tobiasgrosser — APPROVED** [review]
Very cool. 🙏

**Review by nchappe — APPROVED** [review]

**Review by nchappe — APPROVED** [review]
